US08247418B2
STEP 1. 4-(3-CHLOROPYRAZIN-2-YLOXY)BENZENAMINE
2,3-dichloropyrazine (470 mg, 3155 μmol) was combined with 4-aminophenol (344 mg, 3155 μmol) and cesium carbonate (1233 mg, 3786 μmol) in DMSO (5 ml) and heated to 70 C. After 3 hours, the mixture was cooled to room temperature, transferred to a separatory funnel rinsing with ethyl acetate and water, the layers were separated and the aqueous was extracted with ethyl acetate (3×). The combined organics were rinsed with brine, dried over sodium sulfate, filtered and concentrated to yield a brown solid which was carried forward without purification.

reactant | 2,3-dichloropyrazine | 3155 μmol, 470 mg | ClC1=NC=CN=C1Cl | C4H2Cl2N2
reactant | 4-aminophenol | 3155 μmol, 344 mg | NC1=CC=C(C=C1)O | C6H7NO
reactant | cesium carbonate | 3786 μmol, 1233 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 5 ml | CS(=O)C | C2H6OS
product | 4-(3-CHLOROPYRAZIN-2-YLOXY)BENZENAMINE | ClC=1C(=NC=CN1)OC1=CC=C(C=C1)N | C10H8ClN3O
